US05449518
Example I - Preparation of methyl 2,5-dihydroxy-4-methylphenylacetate
A mixture of 145.6 g of 2,5-dihydroxy-4-methylphenylacetic acid and 45 g of dry sulfonic acid resin (IRN-77R) is heated under reflux in 4.38 liters of absolute methanol. The mixture is filtered and the filtrate evaporated. The white solid is recrystallized from a mixture of ethyl acetate and heptane (50:50), yielding white crystals with the following characteristics:

reactant | 2,5-dihydroxy-4-methylphenylacetic acid | 145.6 g | OC1=C(C=C(C(=C1)C)O)CC(=O)O | C9H10O4
reactant | methanol | 4.38 liters | CO | CH4O
product | methyl 2,5-dihydroxy-4-methylphenylacetate | OC1=C(C=C(C(=C1)C)O)CC(=O)OC | C10H12O4
